US04886822
In a stream of nitrogen, 2.0 ml of 2,2,2-trifluoroethanol was added to 52.8 mg of sodium hydride, and then a solution of 140 mg of copper iodide and 922 mg of 4-(4-bromobenzyl)pyridine in 4 ml of N,N'-dimethylformamide was added. The mixture was stirred at a bath temperature of 120° C. for 3 hours. After the reaction, water was added to the reaction mixture, and it was extracted with ethyl acetate. The extract was washed with water, and the solvent was evaporated. 0.78 g of the residue was distilled under reduced pressure by using a Kugel-Rohr. When 574 mg (yield 57%) of a fraction having a boiling point of 150° C. (0.2 mmHg) was separated, 4-[4-(2,2,2-trifluoroethoxy)benzyl]pyridine was obtained as colorless crystals having a melting point of 51° to 53° C.

reactant | 2,2,2-trifluoroethanol | 2.0 ml | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 52.8 mg | [H-].[Na+]
reactant | 4-(4-bromobenzyl)pyridine | 922 mg | BrC1=CC=C(CC2=CC=NC=C2)C=C1 | C12H10BrN
reactant | water | O | H2O
solvent | N,N'-dimethylformamide | 4 ml | CN(C)C=O | C3H7NO
catalyst | copper iodide | 140 mg | [Cu](I)I
product | 4-[4-(2,2,2-trifluoroethoxy)benzyl]pyridine | yield 57% | FC(COC1=CC=C(CC2=CC=NC=C2)C=C1)(F)F | C14H12F3NO
